US07307075B2
(S)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-6-methoxy-4H-benzo[1,4]oxazin-3-one (111MF32)
To a 100 mL flask was charged 4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one (1.0 equiv) and Tetrabutylammonium flouride monohydrate (1.3 equiv) and dissolved in 40 mL dry THF. The reaction was stirred in rt under an inert atmosphere for 20-24 hours. The reaction mixture was concentrated and purified by CC (Heptane/EtOAc).

reactant | 4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 1.0 equiv | [Si](C)(C)(C(C)(C)C)OCC(CN1C(COC2=C1C=CC=C2)=O)C | C18H29NO3Si
reactant | Tetrabutylammonium flouride monohydrate | 1.3 equiv | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | (S)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-6-methoxy-4H-benzo[1,4]oxazin-3-one | [Si](C)(C)(C(C)(C)C)OC[C@H](CN1C(COC2=C1C=C(C=C2)OC)=O)C | C19H31NO4Si
